US06992087B2
5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-6-methoxy-3-vinylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(1S,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine but substituting (1R,2S)-1-{[5-(2,4-dichlorophenyl)-6-methoxy-3-vinylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 1.11-1.14, 3.04-3.08, 3.37-3.44, 3.60-3.68, 3.84, 4.28-4.30, 5.34-5.37, 5.68-5.71, 5.90-5.99, 6.66-6.73, 7.14-7.26, 7.32-7.40; MS (ESI+) for C24H23Cl2N3O2 m/z 456 (M+H)+.

reactant | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(1S,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1[C@H](CC2=CC=CC=C12)OC)CC | C24H25Cl2N3O
reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-6-methoxy-3-vinylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1OC)N[C@H]1[C@H](CC2=CC=CC=C12)O)C=C | C22H19Cl2N3O2
product | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-6-methoxy-3-vinylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1OC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)C=C | C24H23Cl2N3O2
